US08471004B2
(S)-2-[Benzyloxycarbonyl-(2-oxo-propyl)-amino]-propionic acid methyl ester
To a solution of L-alanine methyl ester hydrochloride (6.00 g, 43.0 mmol) in MeOH (120 mL) were added at 0° C. methacrolein (4.12 g, 56 mmol), magnesium sulfate (46.6 g, 387 mmol), and sodium cyanoborohydride (3.70 g, 56 mmol). The ice bath was removed, then after 16 h the excess reagent was destroyed by careful addition of sat. aq. sodium hydrogencarbonate solution at 0° C. The reaction mixture was partitioned between sat. aq. sodium hydrogencarbonate solution and EtOAc. The organic layer was washed with brine, dried (MgSO4), filtered, and evaporated to afford a 1:1 mixture of (S)-2-(2-methyl-allylamino)-propionic acid methyl ester and (S)-2-isobutylamino-propionic acid methyl ester title compound (5.4 g). This was reacted with benzyl chloroformate in analogy with intermediate 1B, leading to a mixture of (S)-2-[benzyloxycarbonyl-(2-methyl-allyl)-amino]-propionic acid methyl ester and (S)-2-(benzyloxycarbonyl-isobutyl-amino)-propionic acid methyl ester (9.8 g). This was suspended in acetone (60 mL) and water (60 mL), then sodium periodate (13.8 g, 64 mmol) and osmium tetroxide solution (2.5% in tert-butylalcohol, 2.2 mL, 0.43 mmol) were added at 0° C. The ice bath was removed, then after 16 h the reaction mixture was partitioned between EtOAc and water. The organic layer was dried over magnesium sulfate, filtered, and evaporated. Chromatography (SiO2; heptane-EtOAc gradient) produced the title compound (1.88 g, 14%). Colourless oil, MS: 294.1 (M+H)+.

reactant | L-alanine methyl ester hydrochloride | 43.0 mmol, 6.00 g | Cl.COC([C@@H](N)C)=O
reactant | methacrolein | 56 mmol, 4.12 g | O=CC(C)=C | C4H6O
reactant | magnesium sulfate | 387 mmol, 46.6 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium cyanoborohydride | 56 mmol, 3.70 g | C(#N)[BH3-].[Na+]
reactant | (S)-2-(2-methyl-allylamino)-propionic acid methyl ester | COC([C@H](C)NCC(=C)C)=O | C8H15NO2
reactant | (S)-2-isobutylamino-propionic acid methyl ester | COC([C@H](C)NCC(C)C)=O | C8H17NO2
solvent | MeOH | 120 mL | CO | CH4O
product | (S)-2-[Benzyloxycarbonyl-(2-oxo-propyl)-amino]-propionic acid methyl ester | 5.4 g | COC([C@H](C)N(CC(C)=O)C(=O)OCC1=CC=CC=C1)=O | C15H19NO5
